US07960409B2
Step 1: 7-bromo-4-(3-methylphenyl)-2H-chromen-2-one
To a solution of 7-bromo-2-oxo-2H-chromen-4-yl trifluoromethanesulfonate (prepared as described in U.S. Pat. No. 5,552,437) (1.1 g, 3.0 mmol) and 3-methylbenzeneboronic acid (450 mg, 3.3 mmol) in THF (12 mL), tricyclohexylphosphine (30 mg, 0.1 mmol) and potassium fluoride (574 mg, 9.9 mmol) were added. The reaction mixture was purged twice with nitrogen before palladium (II) acetate (20 mg, 0.1 mmol) was added. After 16 hours stirring at room temperature the reaction mixture was filtered over celite and the filtrate was concentrated under reduced pressure. The crude residue obtained was purified by column chromatography (CH2Cl2/hexanes, 70:30). To afford the title compound 1H NMR (400 MHz, acetone-d6): 7.67 (s, 1H), 7.53-7.33 (m, 6H), 6.40 (s, 1H), 2.46 (s, 3H).

reactant | 7-bromo-2-oxo-2H-chromen-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(OC2=CC(=CC=C12)Br)=O)(F)F | C10H4BrF3O5S
reactant | 3-methylbenzeneboronic acid | 3.3 mmol, 450 mg | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | tricyclohexylphosphine | 0.1 mmol, 30 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium fluoride | 9.9 mmol, 574 mg | [F-].[K+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | palladium (II) acetate | 0.1 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-bromo-4-(3-methylphenyl)-2H-chromen-2-one | BrC1=CC=C2C(=CC(OC2=C1)=O)C1=CC(=CC=C1)C | C16H11BrO2
